US09215876B2
Attempted preparation of 1,3,6-trioxocan-2-one (TXA)
The procedure of Example 1 was followed using diethylene glycol (8.9 g, 83.9 mmol), triethylamine (24.0 mL, 167.8 mmol), dry THF (600 mL) and triphosgene (8.3 g, 28.8 mmol). The filtrate was concentrated yielding only oligomeric compounds.

reactant | diethylene glycol | 83.9 mmol, 8.9 g | C(COCCO)O | C4H10O3
reactant | triethylamine | 167.8 mmol, 24.0 mL | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 28.8 mmol, 8.3 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | THF | 600 mL | C1CCOC1 | C4H8O
product | 1,3,6-trioxocan-2-one | O1C(OCCOCC1)=O | C5H8O4
